US07973012B2
To an acetone solution (300 mL) of 1-[4-(benzyloxy)-2-methylphenyl]ethanone (20.9 g, 87.1 mmol) were added an aqueous solution (100 mL) of NaBr (9.86 g, 95.9 mmol), water (200 mL), and Oxone (registered trade mark, oxone-persulfuric acid chloride, from Aldrich) (59.0 g, 95.9 mmol), and the mixture was stirred 2.5 hours at room temperature. To the reaction solution cooled in ice were added an aqueous solution (50 mL) of sodium sulfite (20 g), subsequently water and ethyl acetate to separate an organic layer. The organic layer was washed with 20% aqueous solution of sodium sulfite and brine, and dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure to obtain a mixture (27.2 g) of 1-[4-(benzyloxy)-5-bromo-2-methylphenyl]ethanone and 1-[4-(benzyloxy)-3-bromo-2-methylphenyl]ethanone. To the mixture were added a 5% aqueous solution (300 mL, 255 mol) of sodium hypochlorite and an aqueous solution (10 mL) of potassium hydroxide (4.80 g, 85.3 mmol), stirred at 120° C. for an hour, cooled to room temperature, and precipitated insoluble matter was filtered. To this insoluble matter was added 2 M hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with 2 M hydrochloric acid and brine, and dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure. Thus obtained residue was washed with methanol to obtain the title compound (16.6 g, 59%, 2 steps) as a colorless powder.

reactant | 1-[4-(benzyloxy)-2-methylphenyl]ethanone | 87.1 mmol, 20.9 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C(C)=O)C | C16H16O2
reactant | NaBr | 95.9 mmol, 100 mL, 9.86 g | [Na+].[Br-]
reactant | Oxone | 95.9 mmol, 59.0 g | OOS(=O)[O-].[K+]
reactant | sodium sulfite | 50 mL, 20 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 200 mL | O | H2O
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 1-[4-(benzyloxy)-5-bromo-2-methylphenyl]ethanone | 27.2 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1Br)C(C)=O)C | C16H15BrO2
